US05256667
Preparation of 2-n-butyl-6-(morpholin-4-yl) quinazolin-4(3H)-one
The acid (1.57 g, 5.11 mmol) was dissolved in 80 mL DMF to which was added 2.1 mL (15.3 mmol) Et3N, about 50 mg DMAP, and 0.728 mL (6.13 mmol) valeryl chloride. After 10 minutes the mixture was heated to 110° C. After 1 hour, 3.8 g (30.7 mmol) ammonium carbonate was added over about 8 minutes (CAUTION: Frothing occurs and could cause boilover). After 30 minutes the mixture was cooled to room temperature and poured into water. The precipitate was collected on filtration through a medium fritted funnel. The solid was redissolved in methanol to which was added 2 mL 50% NAOH. The mixture was heated to reflux for 30 minutes to complete the conversion of the bis-amide to quinazolinone. The mixture was cooled to room temperature, phenolphthalein was added and the mixture was acidified with concentrated HCl until colorless. Water was added and the precipitated solid was collected. The mother liquor was heated again and a second crop of crystals was taken to give a combined total of 958 mg of product in 65% yield. Rf 0.25 in 40% EtOAc/hexane, visualized by UV and ammonium molybdate/ceric sulfate stain; 1H-NMR (400 MHz, DMSO-d6): δ11.99 (br s, 1H), 7.50 (m, 2H), 7.38 (m, 1H), 3.76 (3 line m, 4H), 3.18 (3 line m, 4H), 2.55 (3 line m, 2H), 1.68 (5 line m, 2H), 1.33 (6 line m, 2H), 0.90 (3 line m, 3H).

reactant | Et3N | 15.3 mmol, 2.1 mL | CCN(CC)CC | C6H15N
reactant | valeryl chloride | 6.13 mmol, 0.728 mL | C(CCCC)(=O)Cl | C5H9ClO
reactant | ammonium carbonate | 30.7 mmol, 3.8 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | water | O | H2O
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | about 50 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-n-butyl-6-(morpholin-4-yl) quinazolin-4(3H)-one | 958 mg, 65% yield | C(CCC)C1=NC2=CC=C(C=C2C(N1)=O)N1CCOCC1 | C16H21N3O2
